US04981937
Preparation of bis[γ-(trimethoxysilyl)propyl]disulfide
A 28% solution of sodium methylate in methanol (97.6 g. 0.51 mole) is diluted with methanol (100 ml), and thereto is added γ-mercaptopropyltrimethoxysilane (100 g, 0.51 mole). The temperature of the mixture raises in a certain degree owing to the mixing heat but return to room temperature after about 30 minutes. To the mixture is added in portions iodine (64.6 g. 0.51 mole) with stirring. In view of exothermic reaction, the reaction vessel is cooled with ice water. After completion of the addition of iodine, the brown mixture is allowed to stand at room temperature for 3 hours to give a clean liquid having pale yellow color. The reaction mixture is moved to a flask, and the methanol solvent is distilled off under reduced pressure with a rotary evaporator. The residue containing white crystals and pale yellow liquid is filtered to separate the oily liquid (86.4 g). This liquid is subjected to analyses of IR, H-NMR and UV spectra, and thereby, it is confirmed that the liquid product is bis[γ-(trimethoxysilyl)propyl ]disulfide of the formula:

reactant | sodium methylate | C[O-].[Na+]
reactant | γ-mercaptopropyltrimethoxysilane | 0.51 mole, 100 g | SCCC[Si](OC)(OC)OC | C6H16O3SSi
reactant | iodine | 0.51 mole, 64.6 g | II | I2
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 0.51 mole, 97.6 g | CO | CH4O
product | bis[γ-(trimethoxysilyl)propyl]disulfide | CO[Si](CCCSSCCC[Si](OC)(OC)OC)(OC)OC | C12H30O6S2Si2
